US06110924
a) Preparation of Ethyl 4-methoxyphenylacetate
A solution of 4-methoxyphenylacetic acid (2 g) and para-toluensulfonic acid (230 mg) in 30 ml of ethanol is refluxed for 2 hours. The solvent is evaporated under reduced pressure and the residue is suspended in a saturated aqueous solution of sodium hydrogencarbonate and extracted twice with ethyl acetate. The organic extracts are collected, washed with water and dried over sodium sulfate to give, after evaporation of the solvent under reduced pressure, 2.14 g of the product.

reactant | 4-methoxyphenylacetic acid | 2 g | COC1=CC=C(C=C1)CC(=O)O | C9H10O3
reactant | para-toluensulfonic acid | 230 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | Ethyl 4-methoxyphenylacetate | COC1=CC=C(C=C1)CC(=O)OCC | C11H14O3
